US04368325
Thiourea (235 mg) and sodium acetate (253 mg) were added to a solution of 7-(2-methoxyimino-3-oxo-4,4-dibromobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 500 mg) in tetrahydrofuran (10 ml) and water (100 ml), and the mixture was stirred at 30° C. for 4 hours. The resultant solution was adjusted to pH 3.5 with 6 N hydrochloric acid, and concentrated under reduced pressure. The precipitates were collected by filtration, washed with water and dried to give 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 163 mg).

reactant | Thiourea | 235 mg | NC(=S)N | CH4N2S
reactant | sodium acetate | 253 mg | C(C)(=O)[O-].[Na+]
reactant | 7-(2-methoxyimino-3-oxo-4,4-dibromobutyramido)-3-cephem-4-carboxylic acid | 500 mg | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(C(Br)Br)=O | C12H11Br2N3O6S
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 163 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C13H13N5O5S2
